US07897788B2
Intermediate A: Ethyl[3-(2-chlorocarbonyl-2-cyano-vinyl)-indol-1-yl]-acetate
To a stirred suspension of 2-cyano-3-(1-ethoxycarbonylmethyl-1H-indol-3-yl)-acrylic acid (3.0 g, 10 mmol) in dry dichloromethane (120 ml), in the presence of a few drops of dry DMF, was added oxalyl chloride (1.7 ml, 20 mmol). After stirring at rt overnight, the volatiles were removed under reduced pressure, the residue azeotoped twice with dry toluene and dried in vacuo, affording crude title compound (3.18 g) in quantitative yield. This material was stored under argon and was used without further purification.

reactant | 2-cyano-3-(1-ethoxycarbonylmethyl-1H-indol-3-yl)-acrylic acid | 10 mmol, 3.0 g | C(#N)C(C(=O)O)=CC1=CN(C2=CC=CC=C12)CC(=O)OCC | C16H14N2O4
reactant | oxalyl chloride | 20 mmol, 1.7 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | Ethyl[3-(2-chlorocarbonyl-2-cyano-vinyl)-indol-1-yl]-acetate | 3.18 g, quantitative yield | C(C)OC(CN1C=C(C2=CC=CC=C12)C=C(C#N)C(=O)Cl)=O | C16H13ClN2O3
